US04659737
12.1 g (0.1 mol) of 2-amino-4-(3-nitrophenyl)butane are added to 19.0 g (0.1 mol) of 2,2-dimethyl-4-formyl-chroman in 100 ml of methanol at 20° C., with stirring and slight cooling, and the mixture is stirred for 1.5 hours. Thereafter, 4.5 g of sodium boranate are added, and stirring is continued for 1 day, and the mixture is evaporated down and worked up with ethyl acetate/water. The ethyl acetate phase is washed with water, dried and evaporated down. Distillation gives 4-{N-[4-(3-nitrophenyl)-2-butyl]-aminomethyl}-2,2-dimethylchroman. B.p.: 225°-235° C./0.04 mmHg.

reactant | 2-amino-4-(3-nitrophenyl)butane | 0.1 mol, 12.1 g | NC(C)CCC1=CC(=CC=C1)[N+](=O)[O-] | C10H14N2O2
reactant | 2,2-dimethyl-4-formyl-chroman | 0.1 mol, 19.0 g | CC1(OC2=CC=CC=C2C(C1)C=O)C | C12H14O2
reactant | sodium boranate | 4.5 g | B(=O)[O-].[Na+]
solvent | methanol | 100 ml | CO | CH4O
product | 4-{N-[4-(3-nitrophenyl)-2-butyl]-aminomethyl}-2,2-dimethylchroman | [N+](=O)([O-])C=1C=C(C=CC1)CCC(C)NCC1CC(OC2=CC=CC=C12)(C)C | C22H28N2O3
